US09340549B2
To a dried 250 mL round bottom flask containing 2 M lithium diisopropyl amide in THF (2 eq.) in THF (60 mL) at 0° C., was added phenyl acetic acid (1.0 g, 7.35 mmol, 1 eq). The resulting mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was then cooled to −78° C. and a mixture of cyclobutanone (commercially available from Sigma-Aldrich, Milwaukee, Wis.) (0.617 g, 8.82 mmol, 1.2 eq.) in THF (20 mL) was added dropwise. The resulting mixture was then stirred at −78° C. and then at ambient temperature for 3 hours. Reaction progress was monitored by TLC (TLC eluent: 30% EtOAc in hexane). The reaction mixture was poured into an EtOAc/water mixture and the aqueous layer was extracted with EtOAc. The aqueous layer was then acidified with dilute hydrochloric acid and extracted with DCM. The DCM solution was washed with brine and concentrated. The residue was purified by column chromatography using silica gel eluting with 15% EtOAc in hexane to yield 2-(1-hydroxycyclobutyl)-2-phenylacetic acid (1.1 g, 73%). 1H NMR (300 MHz, CDCl3) δ: 7.42-7.26 (m, 5H), 3.88 (s, 1H), 2.24-2.19 (m, 2H), 2.10-2.05 (m, 2H), 1.93-1.87 (m, 3H). m/z (ESI) 189 (M+H)+ (-Dehydroxy mass observed).

reactant | lithium diisopropyl amide | 2 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl acetic acid | 7.35 mmol, 1.0 g, 1 eq | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 2 eq. | C1CCOC1 | C4H8O
solvent | EtOAc water | CCOC(=O)C.O
product | 2-(1-hydroxycyclobutyl)-2-phenylacetic acid | 1.1 g, 73% | OC1(CCC1)C(C(=O)O)C1=CC=CC=C1 | C12H14O3
